### PR TITLE
[Merged by Bors] - feat(Analysis/SchwartzSpace): additional lemmas for `smulLeftCLM`

### PR DESCRIPTION
**Pull request by mcdoll**
Add various lemmas for `smulLeftCLM`.

---

The lemma for the sum could be proved with induction, but that proof is slightly longer.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 1]
```diff
@@ -359,6 +359,14 @@ instance instAddCommGroup : AddCommGroup 𝓢(E, F) :=
   DFunLike.coe_injective.addCommGroup _ rfl (fun _ _ => rfl) (fun _ => rfl) (fun _ _ => rfl)
     (fun _ _ => rfl) fun _ _ => rfl
 
+open Classical in
+@[simp]
+theorem sum_apply {ι : Type*} (s : Finset ι) (f : ι → 𝓢(E, F)) (x : E) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean:364]: Consider making this one protected

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 2]
```diff
@@ -742,6 +751,52 @@ theorem smulLeftCLM_compL_smulLeftCLM {g₁ g₂ : E → 𝕜} (hg₁ : g₁.Has
...
+  simp [hg₁, hg₂, hg₁.add hg₂, add_smul]
+
+theorem smulLeftCLM_sub {g₁ g₂ : E → 𝕜} (hg₁ : g₁.HasTemperateGrowth)
+    (hg₂ : g₂.HasTemperateGrowth) :
+    smulLeftCLM F (g₁ - g₂) = smulLeftCLM F g₁ - smulLeftCLM F g₂ := by
+  ext f x
+  simp [hg₁, hg₂, hg₁.sub hg₂, sub_smul]
+
+theorem smulLeftCLM_neg {g : E → 𝕜} (hg : g.HasTemperateGrowth) :
+    smulLeftCLM F (-g) = - smulLeftCLM F g := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]:
```suggestion
    smulLeftCLM F (-g) = -smulLeftCLM F g := by
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 3]
```diff
@@ -742,6 +751,52 @@ theorem smulLeftCLM_compL_smulLeftCLM {g₁ g₂ : E → 𝕜} (hg₁ : g₁.Has
...
+  ext f x
+  simp [hg, hg.neg, neg_smul]
+
+theorem smulLeftCLM_sum {g : ι → E → 𝕜} {s : Finset ι} (hg : ∀ i ∈ s, (g i).HasTemperateGrowth) :
+    smulLeftCLM F (fun x ↦ ∑ i ∈ s, g i x) = ∑ i ∈ s, smulLeftCLM F (g i) := by
+  ext f x
+  simp only [Function.HasTemperateGrowth.sum hg, smulLeftCLM_apply_apply,
+    ContinuousLinearMap.coe_sum', Finset.sum_apply, sum_apply, Finset.sum_smul]
+  apply Finset.sum_congr (refl _)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]:
```suggestion
  apply Finset.sum_congr rfl
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 4]
```diff
@@ -742,6 +751,52 @@ theorem smulLeftCLM_compL_smulLeftCLM {g₁ g₂ : E → 𝕜} (hg₁ : g₁.Has
...
+  intro i hi
+  simp [hg i hi]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]: Maybe `simp +contextual [hg]` works before the `apply sum_congr`

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean (hunk 1 above)
Comment (mcdoll) [reply Mathlib/Analysis/Distribution/SchwartzSpace.lean:364]: The usual `add_apply` and `sub_apply` is not protected either, so I am not too sure about this. On a related note, I think this should be refactored anyway: #33477

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
